US07863305B2
4-chloro-1-(3-chloro-1-phenyl-propyl)-1H-indole (0.228 g) was reacted with methylamine following the procedure of step 3 of Example 11 to afford 0.135 g of (S)-[3-(4Chloro-indol-1-yl)-3-phenyl-propyl]-methyl-amine, (M+H=300).

reactant | 4-chloro-1-(3-chloro-1-phenyl-propyl)-1H-indole | 0.228 g | ClC1=C2C=CN(C2=CC=C1)C(CCCl)C1=CC=CC=C1 | C17H15Cl2N
reactant | methylamine | CN | CH5N
product | (S)-[3-(4Chloro-indol-1-yl)-3-phenyl-propyl]-methyl-amine | 0.135 g | ClC1=C2C=CN(C2=CC=C1)[C@@H](CCNC)C1=CC=CC=C1 | C18H19ClN2
